US07109184B2
((n-decyl)hydroxyphosphinyl) methylphosphonic acid trisodium salt
Bromotrimethylsilane (2 mL, 15.15 mmol) was added dropwise to ((n-decyl)ethoxyphosphinyl) methylphosphonic acid dimethyl ester (0.6 g, 1.68 mmol) in a 30 vial. A large exotherm was noted which resulted in a clear solution that was stirred for 14–16 hours at ambient temperature. Excess bromotrimethylsilane was then removed by passing a steady stream of nitrogen over the solution for 2 hours. The solution was then placed under high vacuum for 3 hours to remove any residual bromotrimethylsilane. A tacky solid was obtained. Tributylamine (0.936 g, 5.05 mmol), methanol (10 mL) and deionized water (0.5 mL) was then added to the vial and a clear solution was obtained. This solution was then added dropwise to a 0.5 M solution of NaI in acetone (10.1 mL, 5.05 mmol). A white solid precipitated immediately which was then washed with 20 mL of acetone. The solid was filtered under vacuum and then washed several times with acetone. The white solid recovered was placed under vacuum to dry for a period of 12–16 hours to give the desired product (0.481 g, 78% yield). 1H NMR (400 MHz D2O): δ 1.6 (m, 2H), 1.4 (m, 2H), 1.2 (m, 2H), 1.0 (m, 14H), 0.5 (t, 3H).

reactant | Bromotrimethylsilane | 15.15 mmol, 2 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | ((n-decyl)ethoxyphosphinyl) methylphosphonic acid dimethyl ester | 1.68 mmol, 0.6 g | COP(OC)(=O)CP(=O)(OCC)CCCCCCCCCC | C15H34O5P2
reactant | Tributylamine | 5.05 mmol, 0.936 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | NaI | [Na+].[I-]
reactant | acetone | 5.05 mmol, 10.1 mL | CC(=O)C | C3H6O
solvent | water | 0.5 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | ((n-decyl)hydroxyphosphinyl) methylphosphonic acid trisodium salt | 0.481 g, 78% yield | [Na+].[Na+].[Na+].C(CCCCCCCCC)P(=O)(O)CP([O-])([O-])=O | InChI=1S/C11H26O5P2.3Na/c1-2-3-4-5-6-7-8-9-10-17(12,13)11-18(14,15)16;;;/h2-11H2,1H3,(H,12,13)(H2,14,15,16);;;/q;3*+1/p-2
